US06844367B1
N-(chloro(2-pyridyl)){6-[(4-cyanophenyl)carbonylamino]-3-hydroxyphenyl}carboxamide
To a suspension of compound N-(5-chloro(2-pyridyl)){2-[(4-cyanophenyl)-carbonylamino]-5-methoxyphenyl}carboxamide (500 mg, 1.2 mmol) in DCM (100 mL) at −78° C. was added BBr3 (2 mL). The mixture was stirred at ambient temperatures for 72 hours. The solid was collected by filtration and was washed by DCM and water, dried under vacuum. The filtrate was concentrated and extracted with EtOAc. The organic extract was washed with brine, dried and evaporated. The resulting solid was combined with the solid obtained from filtration to give the title compound. Total yield is 90% (430 mg). MS found for C20H13ClN4O3 (M+H)+: 393.0.

reactant | N-(5-chloro(2-pyridyl)){2-[(4-cyanophenyl)-carbonylamino]-5-methoxyphenyl}carboxamide | 1.2 mmol, 500 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)OC)NC(=O)C1=CC=C(C=C1)C#N | C21H15ClN4O3
reactant | BBr3 | 2 mL | B(Br)(Br)Br | BBr3
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(chloro(2-pyridyl)){6-[(4-cyanophenyl)carbonylamino]-3-hydroxyphenyl}carboxamide | yield is 90% | ClC=1C(=NC=CC1)NC(=O)C1=CC(=CC=C1NC(=O)C1=CC=C(C=C1)C#N)O | C20H13ClN4O3
